US08283353B2
4′-{[4-(2,4-dimethoxybenzyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile
A mixture of 3′-fluoro-4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1 g), 1,1′-(azodicarbonyl)dipiperidine (1.3 g), tributylphosphine (1.6 mL), (2,4-dimethoxyphenyl)methanol (0.58 g) and tetrahydrofuran (50 mL) was stirred at room temperature for 4 hr. The reaction mixture was diluted with ethyl acetate, washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.36 g, 26%).

reactant | 3′-fluoro-4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1 g | FC=1C=C(C=CC1CC=1C(NC=2N(C1CCC)N=CN2)=O)C=2C(=CC=CC2)C#N | C22H18FN5O
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.3 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 1.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2,4-dimethoxyphenyl)methanol | 0.58 g | COC1=C(C=CC(=C1)OC)CO | C9H12O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4′-{[4-(2,4-dimethoxybenzyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 0.36 g, 26% | COC1=C(CN2C=3N(C(=C(C2=O)CC2=C(C=C(C=C2)C=2C(=CC=CC2)C#N)F)CCC)N=CN3)C=CC(=C1)OC | C31H28FN5O3
